* C:\Electronics Trunk\Distortion Pedal\Draft3.asc
R1 N002 N001 1k
R2 N003 N002 10k
C1 N001 0 1µF
XU1 N004 N002 Vcc -Vcc N003 LT1677
V1 Vcc 0 9v
V2 -Vcc 0 -9V
V3 N004 0 AC 0.1 0
.ac dec 10m 1 100k
.lib LTC.lib
.backanno
.end
